US06800627B1
Ethyl 6-chloro-1-(cyanomethyl)-5-methylindole-2-carboxylate
A solution of ethyl 6-chloro-5-methylindole-2-carboxylate (1.5 g, 6.3 mmol) in DMF (30 mL) was added dropwise to a stirred suspension of sodium hydride (60%, 0.39 g, 10 mmol) in DMF (20 mL) at room temperature under Ar. The reaction was then cooled to 0° C. and stirred for 45 min then chloroacetonitrile (0.81 mL, 13 mmol) was added in one portion. The reaction was heated to 75° C. and stirred for 1 h. After allowing to cool to room temperature the mixture was poured into water (200 mL) and with ethyl acetate (3×100 mL). The combined organic extracts were washed with brine (1×100 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuum to leave the crude product which was used immediately.

reactant | ethyl 6-chloro-5-methylindole-2-carboxylate | 6.3 mmol, 1.5 g | ClC1=C(C=C2C=C(NC2=C1)C(=O)OCC)C | C12H12ClNO2
reactant | sodium hydride | 10 mmol, 0.39 g | [H-].[Na+]
reactant | chloroacetonitrile | 13 mmol, 0.81 mL | ClCC#N | C2H2ClN
reactant | water | 200 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 6-chloro-1-(cyanomethyl)-5-methylindole-2-carboxylate | ClC1=C(C=C2C=C(N(C2=C1)CC#N)C(=O)OCC)C | C14H13ClN2O2
